US07579349B2
3-Methoxypyrazine-2-carboxaldehyde oxime
A mixture of 3-methoxypyrazine-2-carboxaldehyde (Tetrahedron (1999), 56(2), 265-273) (2.1 g, 15 mmol), hydroxylamine hydrochloride (1.27 g, 18 mmol), ethanol (20 ml) and triethylamine (4.17 ml, 30 mmol) was heated at 60° C. for 90 minutes. The volatiles were removed by evaporation and residue was purified by column chromatography on silica gel eluting with hexane/EtOAc (100:0 increasing in polarity 0:100) to give the title compound (740 mg, 32%) as a white solid.

reactant | 3-methoxypyrazine-2-carboxaldehyde | 15 mmol, 2.1 g | COC=1C(=NC=CN1)C=O | C6H6N2O2
reactant | hydroxylamine hydrochloride | 18 mmol, 1.27 g | Cl.NO
reactant | triethylamine | 30 mmol, 4.17 ml | C(C)N(CC)CC | C6H15N
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 3-Methoxypyrazine-2-carboxaldehyde oxime | 740 mg, 32% | COC=1C(=NC=CN1)C=NO | C6H7N3O2
